US06017919
Methyl 3-(1-bromo-4-pentyloxynaphthalene-2-yl)cinnamate (588 mg, 1.56 mmol), ethanol (4 ml) and a 1N aqueous sodium hydroxide solution (4 ml) were mixed, and this solution was refluxed under heating for 1 hour. Ethanol was evaporated under reduced pressure and conc. hydrochloric acid was added to make the reaction mixture acidic. THF (5 ml) and ethyl acetate (20 ml) were added to dissolve the precipitated crystals. The organic layer was separated and the aqueous layer was extracted twice with ethyl acetate (20 ml). The organic layers were combined, washed 3 times with saturated brine (20 ml), and dried over anhydrous sodium sulfate. The drying agent was filtered off and the filtrate was concentrated under reduced pressure. The obtained residue was purified by washing with hexane to give 3-(1-bromo4-pentyloxynaphthalene-2-yl)cinnamic acid (540 mg, 95%) as pale-yellow crystals.

reactant | Methyl 3-(1-bromo-4-pentyloxynaphthalene-2-yl)cinnamate | 1.56 mmol, 588 mg | BrC1=C(C=C(C2=CC=CC=C12)OCCCCC)C=1C=C(C=CC(=O)OC)C=CC1 | C25H25BrO3
reactant | sodium hydroxide | 1N, 4 ml | [OH-].[Na+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 3-(1-bromo4-pentyloxynaphthalene-2-yl)cinnamic acid | 540 mg, 95% | BrC1=C(C=C(C2=CC=CC=C12)OCCCCC)C=1C=C(C=CC(=O)O)C=CC1 | C24H23BrO3
